US05071999
d) 5-Fluoromethyl-2-methyl-2,7-diazabicyclo[3.3.0]-octane
7.1 g (26 mmol) of ethyl 5-fluoromethyl-2-methyl -2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux overnight in 100 ml of concentrated hydrochloric acid. The mixture is concentrated, the residue is taken up in 20 ml of water, the mixture is rendered alkaline with potassium carbonate and extracted ten times using 50 ml of chloroform each time, the extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 5-fluoromethyl-2-methyl -2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 26 mmol, 7.1 g | FCC12CCN(C2CN(C1)C(=O)OCC)C | C11H19FN2O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 5-Fluoromethyl-2-methyl-2,7-diazabicyclo[3.3.0]-octane | FCC12CCN(C2CNC1)C | C8H15FN2
